US07067529B2
To anhydrous N,N-dimethylformamide (0.102 mL, 1.32 mmol) at 0° C. was added phosphorus oxychloride (0.053 mL, 0.58 mmol) dropwise. The mixture was warmed to room temperature and stirred for 30 minutes. The mixture was cooled in an ice-bath, 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (230 mg, 0.53 mmol) in dichloromethane (3 mL) was added dropwise. After addition was complete, the mixture was heated on an oil bath for 4 hrs at 80° C. The mixture was cooled to 0° C. and a solution of potassium acetate (154 mg, 1.56 mmol) in water (2 mL) was added slowly. The mixture was then heated at 80° C. for 20 minutes. The mixture was cooled, poured into water and diluted with dichloromethane (60 mL). The organic layer was washed water (2×20 mL), saturated aqueous sodium bicarbonate solution (20 mL), saturated aqueous sodium chloride solution (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford 6-butoxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (243 mg, 99% yield) as a yellow oil. The crude product was used without further purification.

reactant | N,N-dimethylformamide | 1.32 mmol, 0.102 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.58 mmol, 0.053 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-butoxy-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 0.53 mmol, 230 mg | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)OCCCC)OC)CC1=CC(=CC=C1)OC | C25H31NO5
reactant | potassium acetate | 1.56 mmol, 154 mg | C(C)(=O)[O-].[K+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 6-butoxy-4-formyl-7-methoxy-1-(3-methoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 243 mg, 99% yield | C(C)OC(=O)N1C(C2=CC(=C(C=C2C(=C1)C=O)OCCCC)OC)CC1=CC(=CC=C1)OC | C26H31NO6
